US08138189B2
Step 2: 5-{2-[2-Chloro-4-(4-fluoro-3-hydroxy-phenoxy)-phenyl]-1-hydroxy-1-trifluoromethyl-propyl}-1-methyl-1H-pyridin-2-one
In analogy to Example 147, step 5, 5-{2-[2-chloro-4-(4-fluoro-3-methoxy-phenoxy)-phenyl]-1-hydroxy-1-trifluoromethyl-propyl}-1-methyl-1H-pyridin-2-one was reacted with BBr3 to give the title compound as an off-white solid. MS (m/e)=472.2 [M+H+].

reactant | 5-{2-[2-chloro-4-(4-fluoro-3-methoxy-phenoxy)-phenyl]-1-hydroxy-1-trifluoromethyl-propyl}-1-methyl-1H-pyridin-2-one | ClC1=C(C=CC(=C1)OC1=CC(=C(C=C1)F)OC)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C | C23H20ClF4NO4
reactant | BBr3 | B(Br)(Br)Br | BBr3
product | 5-{2-[2-Chloro-4-(4-fluoro-3-hydroxy-phenoxy)-phenyl]-1-hydroxy-1-trifluoromethyl-propyl}-1-methyl-1H-pyridin-2-one | ClC1=C(C=CC(=C1)OC1=CC(=C(C=C1)F)O)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C | C22H18ClF4NO4
